US07754757B2
In a similar manner to Example 8, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (30.0 mg) and 2-trifluoromethylbenzyl bromide (25.4 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-(2-trifluoromethylbenzyl)oxycarbonyl bicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (39.9 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 30.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 2-trifluoromethylbenzyl bromide | 25.4 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
product | (2S,4S)-4-fluoro-1-[[N-[4-(2-trifluoromethylbenzyl)oxycarbonyl bicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 39.9 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)OCC2=C(C=CC=C2)C(F)(F)F)=O)C#N | C24H27F4N3O3
